US06852831B2
Preparation of 4-(2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)-1-butanol.
9.06 g (45.2 mmol) of 3,4-di-n-propoxythiophene, 30.3 g (226 mmol) of 1,2,6-hexanetriol and 0.09 g (0.5 mmol) of p-toluenesulphonic acid are heated to 150 to 165° C. (bath temperature) under N2 for 3 h. During this time, 5.8 g of distillate (substantially n-propanol) were collected. The cooled liquid was diluted with 50 ml of methylene chloride, washed to neutrality and to free it of hexanetriol with water and the organic phase was dried over Na2SO4. After filtering and evaporating the methylene chloride, the residue (6.73 g=74.8% of theory) was identified by 1H NMR spectroscopy (in CDCl3 against TMS) using δ=6.30 ppm (2H, thiophene H) and 2.85 ppm (1H, OH) as being substantially 4-(2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)-1-butanol.

reactant | 3,4-di-n-propoxythiophene | 45.2 mmol, 9.06 g | C(CC)OC1=CSC=C1OCCC | C10H16O2S
reactant | 1,2,6-hexanetriol | 226 mmol, 30.3 g | C(C(CCCCO)O)O | C6H14O3
reactant | p-toluenesulphonic acid | 0.5 mmol, 0.09 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-(2,3-dihydrothieno[3,4-b][1,4]dioxin-2-yl)-1-butanol | O1C=2C(OCC1CCCCO)=CSC2 | C10H14O3S
